US05455253
9-(3-Trifluoromethylphenyl)-3,4,5,6,7,8,9,10-octahydro-1(2H ) -acridinone.
A mixture of 9-(3-trifluoromethylphenyl)-3,4,6,7,9,10-hexahydro-1,8(2H,5H)-acridinedione (2.0 g), sodium borohydride (2.1 g) and ethanol (50 mL) was heated at 70° C. overnight and cooled to room temperature. The mixture was partitioned between water and ethyl acetate; the organic layer dried, filtered and concentrated. Chromatography (eluant: methylene chloride/methanol; 98/2) and recrystallization from ethanol/hexane provided the title compound (1.0 g) as a yellow solid, m.p. 250°-251° C.; NMR: 1.47-1.52 (m,3, CH2), 1.66-1.90 (m,5, CH2), 2.10-2.15 (m,4, CH2), 2.40-2.45 (m,2, CH2), 4.28 (s,1, CH), 7.45 (s,4, Ar), 8.44 (s,1, NH); (CI, CH4) MS: m/z=348(M+1). Analysis for C20H20F3NO: Calculated C, 69.15; H, 5.80; N, 4.03; Found: C, 69.01; H, 5.83; N, 3.98.

reactant | 9-(3-trifluoromethylphenyl)-3,4,6,7,9,10-hexahydro-1,8(2H,5H)-acridinedione | 2.0 g | FC(C=1C=C(C=CC1)C1C=2C(CCCC2NC=2CCCC(C12)=O)=O)(F)F | C20H18F3NO2
reactant | sodium borohydride | 2.1 g | [BH4-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 9-(3-Trifluoromethylphenyl)-3,4,5,6,7,8,9,10-octahydro-1(2H ) -acridinone | 1.0 g | FC(C=1C=C(C=CC1)C1C=2CCCCC2NC=2CCCC(C12)=O)(F)F | C20H20F3NO
